US05668160
A mixture of (2-phenoxyphenyl)acetamide (3.9 g) and bromoacetaldehyde diethyl acetal (3.1 ml) in DMF (100 ml) was heated for 2 hours. After cooling, the resulting mixture was diluted with water and extracted with ether. The extracts were washed with water then dried, concentrated and chromatographed using ethyl acetate: hexane (50:50) as eluant to give 2-(2-phenoxyphenylmethyl)oxazole (1.77 g, 41%) as a brown oil, 1H NMR (CDCl3): delta 4.20 (2H,s), 7.01 (1H,s) and 7.54 (1H,s) ppm.

reactant | (2-phenoxyphenyl)acetamide | 3.9 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)CC(=O)N | C14H13NO2
reactant | bromoacetaldehyde diethyl acetal | 3.1 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2-phenoxyphenylmethyl)oxazole | 1.77 g, 41% | O(C1=CC=CC=C1)C1=C(C=CC=C1)CC=1OC=CN1 | C16H13NO2
